US04002640
A mixture of 1.8 g. of 4-(2-ethoxyethoxy)-2-nitroaniline and 0.3 g. of 5% palladium-on-charcoal catalyst in 200 ml. of methanol is hydrogenated under ambient conditions. After the uptake of hydrogen is complete, the mixture is filtered and 1,2-diamino-4-(2-ethoxyethoxy) benzene is isolated from the filtrate by evaporation.

reactant | 4-(2-ethoxyethoxy)-2-nitroaniline | C(C)OCCOC1=CC(=C(N)C=C1)[N+](=O)[O-] | C10H14N2O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 1,2-diamino-4-(2-ethoxyethoxy) benzene | NC1=C(C=C(C=C1)OCCOCC)N | C10H16N2O2
